* LMG1020
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.   
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
* Released by: Texas Instruments Inc.
* Part: LMG1020
* Date: 09/18/2019
* Model Type:  TRANSIENT
* Simulator: PSpice
* Simulator Version: 17.2(x64)
* Datasheet: SNOSD45B – FEBRUARY 2018 – REVISED OCTOBER 2018
*
* Model Version: 2.00
*
*****************************************************************************
* source LMG1020

.SUBCKT LMG1020 VDD GND INP OUTH OUTL INM
C_C9         0 INP_SHIFTED_TOP  1p  
V_V10         N16652210 0 2.2
E_E8         VDD_SHIFTED_TOP 0 VDD GND 1
E_E9         N03170 0 INM GND 1
V_V9         N16652216 0 0.9
R_R9         N03170 0  170k  
X_U14         N03170 N16652210 N16652216 N02910 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
E_E7         INP_SHIFTED_TOP 0 INP GND 1
V_UVLO_V7         UVLO_N16641969 0 3.915
X_UVLO_U13         UVLO_N16641969 VDD_SHIFTED_TOP UVLO_N16641955 N02952
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_UVLO_V8         UVLO_N16641955 0 0.085
R_R10         VDD_SHIFTED_TOP INP_SHIFTED_TOP  170k  
E_ABM1         N03999 0 VALUE { ( V(N02966)  
+ *V(N03064) ) / 1.0   }
V_V7         N16652601 0 2.2
V_V8         N16652637 0 0.9
X_U18         N02910 N02960 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_Core_E5         Core_VIN_INT 0 Core_N00838 0 1
M_Core_M4         Core_N00962 Core_VGN OUTL OUTL PMOS01           
X_Core_U12         N03999 Core_N00838 BUFFER_PS PARAMS: VHI=1 VLO=0
+  VTHRESH=500E-3 TPLH={Tlplh} TPHL={Tlphl} TR=1E-9 TF=1E-9
C_Core_C7         Core_N00962 Core_VGN  2p  
R_Core_R8         VDD Core_N00816  0.02  
C_Core_C10         OUTH Core_VGP  2p  
R_Core_R12         Core_N00962 GND  0.02  
R_Core_R7         Core_N00764 Core_VGP  10  
E_Core_E3         Core_N00764 OUTH VALUE { IF(V(Core_VIN_INT, 0) < 0.5, -5, 5)
+  }
C_Core_C11         Core_VGP Core_N00816  2p  
M_Core_M3         Core_N00816 Core_VGP OUTH OUTH NMOS01           
C_Core_C8         OUTL Core_VGN  2p  
R_Core_R11         Core_N01082 Core_VGN  10  
E_Core_E4         OUTL Core_N01082 VALUE { IF(V(Core_VIN_INT, 0) < 0.5, 5, -5)
+  }
C_C10         0 N03170  1p  
X_U13         INP_SHIFTED_TOP N16652601 N16652637 N02948 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U20         N02948 N02960 N03064 AND2_BASIC_NODELAY PARAMS:  VDD=1 VSS=0
+  VTHRESH=0.5
X_U19         N02952 N02966 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
.PARAM  tlphl=1.7n tlplh=1.0n

.ENDS LMG1020

** Wrapper definitions for AA legacy support **


.model PMOS01 pmos

+ vto=-2
+ kp=1.11
+ lambda=0.001


.model NMOS01 nmos

+ vto=2
+ kp=1.55
+ lambda=0.001




** Wrapper definitions for AA legacy support **
**** ALL DIGITAL GATES***********
******************************************************************************
******************************************************************************
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5.0n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
* PSpice Model Editor - Version 16.2.0
*************************************************************
*************************************************************
*************************************************************
* PSpice Model Editor - Version 16.2.0

.SUBCKT BUFFER_PS A Y PARAMS: vhi=1 vlo=0 vthresh=500e-3 tplh=1e-9 tphl=1e-9 tr=1e-9 tf=1e-9
RA A 0 1e11
CA A 0 0.01pF
VS VSUP 0 DC 1
EBUF1 Ypp 0 VALUE={IF(V(A) > ({vthresh}), 1, 0)}
ROUTpp Ypp 0 1e11
XNSW1 OUTp Ypp 0 NSW_PS PARAMS: RONval={(tplh+1e-15)/(1e-12*0.693)} VTHval=0.5
XPSW1 OUTp Ypp VSUP PSW_PS PARAMS: RONval={(tphl+1e-15)/(1e-12*0.693)} VTHval=0.5
CDEL1 OUTp 0 1pF
ETHRESH Yp 0 VALUE={IF(V(OUTp) > 0.5, 1, 0)}
ROUTp Yp 0 1e11
XNSW2 OUTr Yp 0 NSW_PS PARAMS: RONval={(tf+1e-15)/(1e-12*2.3)} VTHval=0.5
XPSW2 OUTr Yp VSUP PSW_PS PARAMS: RONval={(tr+1e-15)/(1e-12*2.3)} VTHval=0.5
CDEL2 OUTr 0 1pF
EOUT OUTf 0 VALUE={V(OUTr)*({vhi} - {vlo})+{vlo}}
RDR OUTf Y  1000
RO Y 0 1e11
.ENDS BUFFER_PS

*$
.SUBCKT AND2_BASIC_nodelay A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE YINT 0 VALUE { IF( (V(A) > VTHRESH) && (V(B) > VTHRESH), VDD, VSS ) }
RINT YINT Y 1
CINT Y 0 100p
.ENDS AND2_BASIC_nodelay
*$

*$
.SUBCKT AND2_BASIC_NODELAY A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X1 A B Y AND2_BASIC_nodelay PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
.ENDS AND2_BASIC_NODELAY
*$

*$
.SUBCKT NSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF CSval=0.01pf
RDDUM D 0 1e11
RSDUM S 0 1e11
RGDUM G 0 1e11
CG G D {CGval}
CD D S {CDval}
CS G S {CSval}
***EEXP F1 0 VALUE={LIMIT(((V(G,S)-VTHval)/VCHARval),-80,80)} 
Etest test 0 VALUE={IF(V(D) > V(S), V(G,S), V(G,D))}
GOUT D S VALUE={V(D,S)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS NSW_PS
*$
.SUBCKT PSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF 
RDDUM D 0 1e11
RSDUM S 0 1e11
RGDUM G 0 1e11
CG G D {CGval}
CD D S {CDval}
Etest test 0 VALUE={IF(V(S) > V(D), V(S,G), V(D,G))}
GOUT S D VALUE={V(S,D)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS PSW_PS
*$

*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.ENDS D_D1
*$